US07943669B2
[4-(3-Hydroxy-5-phenylethynyl-phenylsulfanyl)-2-methyl-phenoxy]-acetic Acid Ethyl Ester
[4-(3-Bromo-5-hydroxy-phenylsulfanyl)-2-methyl-phenoxy]-acetic acid ethyl acetate (2.3 g; 5.79 mmol), phenylacetylene (1.9 mL; 17.4 mmol), bis(triphenylphosphine)palladium (II) chloride (0.33 g; 0.46 mmol) and copper iodide (0.07 g; 0.35 mmol) were dissolved in a mixture of triethylamine (7 mL) and DMF (8 mL) under an atmosphere of nitrogen. The reaction mixture was reacted in a microwave oven at 100° C. for 1 h. The reaction mixture was evaporated to dryness, and 5% aqueous citric acid and ethyl acetate was added. The organic phase was separated, dried and evaporated to dryness. The crude product was purified by flash chromatography (ethyl acetate:heptane 1:10→1:3). Yield: 1.2 g. HPLC-MS: m/z: 419 (M+); Rt: 2.52 min.

reactant | [4-(3-Bromo-5-hydroxy-phenylsulfanyl)-2-methyl-phenoxy]-acetic acid ethyl acetate | 5.79 mmol, 2.3 g | C(C)OC(C)=O.BrC=1C=C(C=C(C1)O)SC1=CC(=C(OCC(=O)O)C=C1)C
reactant | phenylacetylene | 17.4 mmol, 1.9 mL | C1(=CC=CC=C1)C#C | C8H6
solvent | triethylamine | 7 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.46 mmol, 0.33 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper iodide | 0.35 mmol, 0.07 g | [Cu](I)I
product | [4-(3-Hydroxy-5-phenylethynyl-phenylsulfanyl)-2-methyl-phenoxy]-acetic Acid Ethyl Ester | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CC1=CC=CC=C1)O)C)=O | C25H22O4S
